US06608071B2
1-(3,5-Dimethylanilino)-4-[(pyridin-4-yl)-methyl]-isoquinoline (=N-(3,5-dimethyl-phenyl)-[4-(pyridin-4-yl-methyl)-isoquinolin-1-yl]-amine)
With the exclusion of moisture, 100 mg (0.825 mmol) of 3,5-dimethyl-aniline are dissolved in 4 ml of ethanol, and 196 μl (0.784 mmol) of HCl (4N in dioxane) are added. After the addition of 200 mg (0.785 mmol) of 1-chloro-4-[(pyridin-4-yl)-methyl]-isoquinoline, the mixture is heated for 8 hours at 90° C. Concentration by evaporation is then carried out; the residue is taken up in 4 ml of water, 1 ml of saturated ammonia solution and 20 ml of CH2Cl2, and the organic phase is separated off, dried with Na2SO4 (anhydrous) and concentrated by evaporation again. Column chromatography (SiO2; ethyl acetatelhexane 3:1) and crystallisation from ethyl acetate/hexane yield the title compound: m.p. 156-158° C.; 1H NMR (DMSO-d6) 9.00 (s, HN), 8.54 (d, 1H), 8.42 (d, 2H), 8.00 (s, 1H), 7.80 (d, 1H), 7.65 (m, 2H), 7.50 (s, 2H), 7.26 (d, 2H), 6.64 (s, 1H), 4.25 (s, 2H), 2.27 (s, 6H); FAB-MS: (M+H)+=340; Anal. calc. (C23H21N3.0.1H2O) C 80.95%, H 6.26%, N 12.31%; found C 80.9%, H 6.2%, N 12.4%.

reactant | 3,5-dimethyl-aniline | 0.825 mmol, 100 mg | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | HCl | 0.784 mmol, 4N, 196 μl | Cl | ClH
reactant | 1-chloro-4-[(pyridin-4-yl)-methyl]-isoquinoline | 0.785 mmol, 200 mg | ClC1=NC=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C15H11ClN2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(3,5-Dimethylanilino)-4-[(pyridin-4-yl)-methyl]-isoquinoline | CC=1C=C(NC2=NC=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C(C1)C | C23H21N3
